US05948820
(7) 4-(4-Benzyloxyphenyl)-2-tert-butoxycarbonylamino-2-ethylbutyl acetate
A solution of 4-(4-benzyloxyphenyl)-2-tert-butoxycarbonylamino-2-ethylbutanol (24 g) in pyridine (200 ml) and acetic anhydride (32 ml) was allowed to stand at room temperature overnight. Ethyl acetate was added to the reaction mixture and the mixture was washed with water, a dilute hydrochloric acid, an aqueous sodium hydrogencarbonate solution and a saturated brine in order, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue obtained was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:1) to give the subject compound (13 g).

reactant | 4-(4-benzyloxyphenyl)-2-tert-butoxycarbonylamino-2-ethylbutanol | 24 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(CO)(CC)NC(=O)OC(C)(C)C | C24H33NO4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 32 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(4-Benzyloxyphenyl)-2-tert-butoxycarbonylamino-2-ethylbutyl acetate | 13 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)(CC)NC(=O)OC(C)(C)C | C26H35NO5
